US05635197
(+)-(4aR)-(10bR)-4-methyl-8-(3-formyl-4-hydroxyphenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis(triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 3-formyl-4-hydroxyphenylboronic acid (129 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of toluene, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. Additional palladium reagent and boronic acid was added, and the mixture was heated for an additional 24 h. The mixture was cooled, diluted with dichloromethane (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), followed by recrystallization from ethyl acetate, to give 85 mg (37%) of the title compound as a white solid. mp 184°-187°. FDMS: m/e=349.

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 3-formyl-4-hydroxyphenylboronic acid | 0.78 mmol, 129 mg | C(=O)C=1C=C(C=CC1O)B(O)O | C7H7BO4
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | boronic acid | B(O)O | BH3O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | palladium | [Pd] | Pd
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-formyl-4-hydroxyphenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 85 mg, 37% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=C(C=C3)O)C=O)C)=O | C22H23NO3
